data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
5003,5691,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[N-:19][N+:20]([CH3:21])=[C:22]([C:23]#[N:24])[C:25]([CH3:26])=[O:27]>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[N:19]([C:17]([NH:16][CH3:15])=[O:18])[N:20]([CH3:21])[C:22]2([C:23]#[N:24])[C:25]([CH3:26])=[O:27],water,298.15,24.68807545046136,-4.2809225594899525
23,26,[CH3:8][N-:9][N+:10]#[C:11][C:12]([CH3:13])=[O:14].[CH:1]1=[CH:2][CH:3]2[CH:4]=[CH:5][CH:6]1[O:7]2>>[CH:1]1=[CH:2][CH:3]2[CH:4]3[CH:5]([CH:6]1[O:7]2)[N:9]([CH3:8])[N:10]=[C:11]3[C:12]([CH3:13])=[O:14],water,298.15,13.976855666416348,-63.624372619317896
5237,5941,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[C:19]([CH3:20])=[NH+:21][C-:22]([C:23](=[O:24])[O:25][CH3:26])[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1>>[C:1]1(=[O:2])[C@:3]2([O:4][CH3:5])[C@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:22]([C:23](=[O:24])[O:25][CH3:26])([c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1)[NH:21][C:19]2([C:17]([NH:16][CH3:15])=[O:18])[CH3:20],water,298.15,24.47984008760497,-0.9289710956813594
1516,1671,[CH3:11][NH:12][C:13](=[O:14])[c-:15]1[o+:16][c:17]([C:18]([CH3:19])=[O:20])[o:21][c:22]1=[O:23].[F:1][C:2]1([Br:3])[C:4]#[C:5][CH2:6][CH2:7][CH2:8][CH2:9][CH2:10]1>>[F:1][C:2]1([Br:3])[C:4]2=[C:5]([CH2:6][CH2:7][CH2:8][CH2:9][CH2:10]1)[C:15]1([C:13]([NH:12][CH3:11])=[O:14])[O:16][C:17]2([C:18]([CH3:19])=[O:20])[O:21][C:22]1=[O:23],water,298.15,9.813555353619048,-35.695947608400715
3210,3624,[CH2:1]=[CH2:2].[CH3:3][NH:4][C:5](=[O:6])[C:7]#[N+:8][C-:9]([C:10]([CH3:11])=[O:12])[C:13](=[O:14])[O:15][CH3:16]>>[CH2:1]1[CH2:2][C:9]([C:10]([CH3:11])=[O:12])([C:13](=[O:14])[O:15][CH3:16])[N:8]=[C:7]1[C:5]([NH:4][CH3:3])=[O:6],water,298.15,14.019888356996391,-42.44323940743881
1918,2126,[CH3:12][O:13][C:14](=[O:15])[C:16](=[O+:17][N-:18][c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1)[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1.[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([F:6])[CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([F:6])([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[N:18]([c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1)[O:17][C:16]2([C:14]([O:13][CH3:12])=[O:15])[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1,water,298.15,10.907151673005131,-29.090530278262744
3574,4080,[CH3:10][O:11][C:12](=[O:13])[C-:14]([CH3:15])[N+:16]#[C:17][C:18]#[N:19].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([O:11][CH3:10])=[O:13])([CH3:15])[N:16]=[C:17]1[C:18]#[N:19],water,298.15,15.181463799640206,-33.21516466733205
1261,1378,[CH3:14][N-:15][O+:16]=[C:17]([C:18]([CH3:19])=[O:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]#[N:8])[CH:9]2[CH2:10][CH2:11][CH:12]1[CH2:13]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([C:7]#[N:8])([CH:9]3[CH2:10][CH2:11][CH:12]1[CH2:13]3)[N:15]([CH3:14])[O:16][C:17]2([C:18]([CH3:19])=[O:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,10.596482239665784,-26.55412362375134
2441,2709,[CH3:12][O:13][C:14](=[O:15])[C:16](=[NH+:17][C-:18]([C:19](=[O:20])[O:21][CH3:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[C:29]([CH3:30])=[O:31].[Cl:1][C:2]([Cl:3])=[C:4]([Cl:5])[c:6]1[cH:7][cH:8][cH:9][cH:10][cH:11]1>>[Cl:1][C:2]1([Cl:3])[C:4]([Cl:5])([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[C:18]([C:19](=[O:20])[O:21][CH3:22])([c:23]2[cH:24][cH:25][cH:26][cH:27][cH:28]2)[NH:17][C:16]1([C:14]([O:13][CH3:12])=[O:15])[C:29]([CH3:30])=[O:31],water,298.15,44.47389117877098,8.17332067617043
4295,4914,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C-:15]([CH3:16])[N+:17]([CH3:18])=[C:19]([C:20]#[N:21])[C:22]#[N:23]>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:19]([C:20]#[N:21])([C:22]#[N:23])[N:17]([CH3:18])[C:15]2([C:13]([NH:12][CH3:11])=[O:14])[CH3:16],water,298.15,18.49061869321213,-13.039453066716796
2648,2936,[CH3:16][O:17][C:18](=[O:19])[C:20](=[NH+:21][C-:22]([C:23](=[O:24])[O:25][CH3:26])[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1)[C:33](=[O:34])[O:35][CH3:36].[CH3:1][C:2](=[O:3])[C:4]([C:5]([CH3:6])=[O:7])=[C:8]([C:9]([CH3:10])=[O:11])[C:12]([F:13])([F:14])[F:15]>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]([C:9]([CH3:10])=[O:11])([C:12]([F:13])([F:14])[F:15])[C:22]([C:23](=[O:24])[O:25][CH3:26])([c:27]2[cH:28][cH:29][cH:30][cH:31][cH:32]2)[NH:21][C:20]1([C:18]([O:17][CH3:16])=[O:19])[C:33](=[O:34])[O:35][CH3:36],water,298.15,47.83092348326304,12.663224280199737
